US04894386
4-[5-(Butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide
A solution of 4-[5-(butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid (0.18 g), 4-(dimethylamino)pyridine (0.06 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.10 g), and 2-methylbenzenesulfonamide (0.08 g) in methylene chloride (3 ml) was stirred under a nitrogen atmosphere for 36 hr. The mixture was diluted with methylene chloride; washed (10% v/v hydrochloric acid, water), evaporated and dried under vacuum to give the title compound (0.21 g, 86%) as a pale pink powder: mp 108°-110°.

reactant | 4-[5-(butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid | 0.18 g | C(CCC)NC(=O)CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)O)C=C1)OC | C24H28N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.10 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-methylbenzenesulfonamide | 0.08 g | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
catalyst | 4-(dimethylamino)pyridine | 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-[5-(Butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 0.21 g, 86% | C(CCC)NC(=O)CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C31H35N3O5S
